US06329370B1
1-[4-(3,5-Dichloro-pyridin-4-ylmethyl)-7-methoxy-1H-phthalazin-2-yl]-2-pyrrolidin-1-yl-ethanone (Compound 43)
A solution under N2 and stirring of 2-chloro-1-[4-(3,5-dichloro-pyridin-4-ylmethyl)-7-methoxy-1H-phthalazin-2-yl]-ethanone (1.3 g, 3.26 mmoles), prepared as described in example 81, in dry CHCl3 (15 ml) at room temperature was added with pyrrolidine (0.82 ml, 9.78 mmoles) and refluxed. After 20 hours the mixture was poured into water/ice, the phases separated, and the organic one washed with water, anhydrified and brought to dryness to give a residue which was crystallised from acetonitrile (40 ml) to give 0.79 g of the title compound (yield: 58%). m.p.: 148-150° C.

reactant | 2-chloro-1-[4-(3,5-dichloro-pyridin-4-ylmethyl)-7-methoxy-1H-phthalazin-2-yl]-ethanone | 3.26 mmoles, 1.3 g | ClCC(=O)N1CC2=CC(=CC=C2C(=N1)CC1=C(C=NC=C1Cl)Cl)OC | C17H14Cl3N3O2
reactant | pyrrolidine | 9.78 mmoles, 0.82 ml | N1CCCC1 | C4H9N
solvent | CHCl3 | 15 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-[4-(3,5-Dichloro-pyridin-4-ylmethyl)-7-methoxy-1H-phthalazin-2-yl]-2-pyrrolidin-1-yl-ethanone | 0.79 g, yield: 58% | ClC=1C=NC=C(C1CC1=NN(CC2=CC(=CC=C12)OC)C(CN1CCCC1)=O)Cl | C21H22Cl2N4O2
